US09278910B2
To a stirring solution of 4-hydroxybenzylamine (0.5 g, 4.06 mmol) and TEA (2.26 mL, 16.24 mmol) in DCM (20 mL) at 0° C. was added 4-nitrobenzoyl chloride (1.66 g, 8.93 mmol) and left at room temperature for 1 h. The reaction mixture was diluted with DCM (100 mL), washed with NaHCO3 (50 mL), and the organic layer reduced to dryness. The resulting residue was diluted with MeOH (25 mL) and DCM (5 mL), to which NaOH (18.0 mL, 1.0 M) was added. After stirring at room temperature for 10 min, analysis showed the bis-acylated material was cleaved to give the desired mono-acylated product. The reaction mixture was acidified with acetic acid until neutral and the MeOH removed under vacuum. The product was extracted into DCM (50 mL) and washed with brine (50 mL). The organic residue was purified by chromatography (EA/hexanes), to afford 647 mg (58%) of N-(4-hydroxybenzyl)-4-nitrobenzamide INT-1. LCMS-ESI (m/z) calculated for C14H12N2O4: 272; found 273 [M+H]+, tR=1.84 min (Method 5).

reactant | 4-hydroxybenzylamine | 4.06 mmol, 0.5 g | OC1=CC=C(CN)C=C1 | C7H9NO
reactant | 4-nitrobenzoyl chloride | 8.93 mmol, 1.66 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | MeOH | CO | CH4O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(4-hydroxybenzyl)-4-nitrobenzamide | 647 mg, 58% | OC1=CC=C(CNC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C14H12N2O4
